US08865713B2
Step C: 1-(6-Chloro-5-phenylsulfamoyl-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester.
Hydrochloric acid in dioxane (4M, 0.241 mL) was added to 1-[6-chloro-1-(2-methoxy-ethoxymethyl)-5-phenylsulfamoyl-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester (35.0 mg, 65.5 μmol) in ethanol (0.50 mL) and allowed to stir at 23° C. for 2.5 h. The solvent was evaporated and the residue was purified via FCC (5-100% EtOAc/hexanes) to yield the titled compound (28.7 mg, 98% yield). MS (ESI/CI): mass calcd. for C19H16ClN5O4S, 445.1; m/z found, 446.0 [M+H]+.

reactant | Hydrochloric acid | Cl | ClH
reactant | 1-[6-chloro-1-(2-methoxy-ethoxymethyl)-5-phenylsulfamoyl-1H-benzoimidazol-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | 65.5 μmol, 35.0 mg | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1COCCOC)C=C(C(=C2)S(NC2=CC=CC=C2)(=O)=O)Cl | C23H24ClN5O6S
solvent | dioxane | 4M, 0.241 mL | O1CCOCC1 | C4H8O2
solvent | ethanol | 0.50 mL | C(C)O | C2H6O
product | 1-(6-Chloro-5-phenylsulfamoyl-1H-benzoimidazol-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 28.7 mg, 98% yield | C(C)OC(=O)C=1C=NN(C1)C1=NC2=C(N1)C=C(C(=C2)S(NC2=CC=CC=C2)(=O)=O)Cl | C19H16ClN5O4S
